US08258140B2
Acetic acid (0.081 mL, 1.41 mmol) was added to 1-(4-{1-[3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenoxy)propan-2-one (595 mg, 1.41 mmol), N-acetylpiperazine (199 mg, 1.55 mmol) and a catalytic amount of MgSO4 in THF (5 mL). The resulting mixture was stirred at ambient temperature for 1 hour, then sodium triacetoxyborohydride (359 mg, 1.69 mmol) was added and stirring was continued for a further 16 hours. The reaction mixture was concentrated, diluted with DCM (25 mL), washed with saturated NaHCO3 (25 mL) and then filtered through a PTFE cup. The organic layer was evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford racemic 6-(4-{4-[2-(4-acetylpiperazin-1-yl)propoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine (199 mg, 26.4%) as a gum.

reactant | Acetic acid | 1.41 mmol, 0.081 mL | C(C)(=O)O | C2H4O2
reactant | 1-(4-{1-[3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenoxy)propan-2-one | 1.41 mmol, 595 mg | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCC(C)=O)C=C2)(F)F | C20H22F3N5O2
reactant | N-acetylpiperazine | 1.55 mmol, 199 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | sodium triacetoxyborohydride | 1.69 mmol, 359 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | racemic 6-(4-{4-[2-(4-acetylpiperazin-1-yl)propoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 199 mg, 26.4% | C(C)(=O)N1CCN(CC1)C(COC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F)C | C26H34F3N7O2
